US07863305B2
2-[(7-Methoxy-indol-1-yl)-pyridin-3-yl-methyl]-malonic acid tert-butyl ester methyl ester (0.200 g) was dissolved in toluene (50 ml) and treated with p-toluenesulfonic acid (0.102 g). The mixture was brought to reflux temperature and stirred for 4 hours. The reaction mixture was partitioned between ethyl acetate and aqueous bicarbonate solution, the organic layer was dried over magnesium sulfate, filtered and evaporated to dryness to afford 3-(7-methoxy-indol-1-yl)-3-pyridin-3-yl-propan-1-ol as an oil which was purified by column chromatography (ethyl acetate-hexane 3:7).

reactant | 2-[(7-Methoxy-indol-1-yl)-pyridin-3-yl-methyl]-malonic acid tert-butyl ester methyl ester | 0.200 g | COC(C(C(=O)OC(C)(C)C)C(C=1C=NC=CC1)N1C=CC2=CC=CC(=C12)OC)=O | C23H26N2O5
reactant | p-toluenesulfonic acid | 0.102 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
product | 3-(7-methoxy-indol-1-yl)-3-pyridin-3-yl-propan-1-ol | COC=1C=CC=C2C=CN(C12)C(CCO)C=1C=NC=CC1 | C17H18N2O2
